### ISSUE TITLE
HilbertProblems/5.lean: the Hilbert–Smith statements are false (Lie groups required to be second countable)

### ISSUE THREAD

**Issue by j2d9w5xtjn-png** [google-deepmind/formal-conjectures#5365]
`Hilbert5.hilbert_smith_conjecture`, `hilbert_smith_conjecture.variants.dimension_three` and `hilbert_smith_conjecture.variants.riemannian` in `FormalConjectures/HilbertProblems/5.lean` conclude `AdmitsLieGroupStructure G`, which asks for a continuous isomorphism from `G` to a Lie group whose carrier is `SecondCountableTopology`.

This makes the statements false. Take `G = ℝ` with the discrete topology acting on `ℝ` by translations. `G` is a locally compact group, the action is continuous and faithful, and `ℝ` is a connected 1-manifold, but `G` is not second countable (a discrete second countable space is countable). The Lean file below derives `False` from `hilbert_smith_conjecture` and from the `research solved` variant `dimension_three`.

The second countable carrier was added in #4595, which fixed `hilbert_fifth_problem`. The conjecture in the literature (Wikipedia, Tao's notes, Pardon) does not assume the group is second countable, and its conclusion "`G` is a Lie group" includes 0-dimensional Lie groups, i.e. arbitrary discrete groups. So the fix is to drop the `SecondCountableTopology` field of `LieGroupPresentation`. `hilbert_fifth_problem` is unaffected: it assumes `SecondCountableTopology G`, which transfers along the homeomorphism.

Separately, `variants.riemannian` takes `[MetricSpace X]` next to the file's `[TopologicalSpace X]`. Only `Isometry` uses the metric, which is otherwise unconstrained. With the discrete metric every bijection is an isometry, so the variant is the open conjecture with a smoothness hypothesis, not a solved case. It should be stated with `IsRiemannianManifold`, so that the isometries are isometries of the Riemannian distance.

<details>
<summary>Lean disproof (checked against current <code>main</code> with <code>lake env lean</code>, no errors)</summary>

```lean
import FormalConjectures.HilbertProblems.«5»

/-! # The statement `Hilbert5.hilbert_smith_conjecture` at formal-conjectures d33e35a5 is false.

Check with `lake env lean HilbertSmithDisproof.lean` from a checkout of google-deepmind/formal-conjectures
at commit d33e35a5 (or any commit before the fix), after building `FormalConjectures.HilbertProblems.«5»`.
Output: no errors. -/

open scoped Manifold ContDiff

/-- The additive group `ℝ`, written multiplicatively, with the discrete topology. -/
def DiscreteReal : Type := Multiplicative ℝ

namespace DiscreteReal

instance : Group DiscreteReal := inferInstanceAs (Group (Multiplicative ℝ))
instance : TopologicalSpace DiscreteReal := ⊥
instance : DiscreteTopology DiscreteReal := ⟨rfl⟩
instance : Uncountable DiscreteReal := inferInstanceAs (Uncountable ℝ)

instance : LocallyCompactSpace DiscreteReal :=
  ⟨fun x _ hn => ⟨{x}, (isOpen_discrete _).mem_nhds (Set.mem_singleton x),
    Set.singleton_subset_iff.mpr (mem_of_mem_nhds hn), isCompact_singleton⟩⟩

variable {n : ℕ} [NeZero n]

/-- The direction of translation in `ℝⁿ`. -/
noncomputable def e (n : ℕ) [NeZero n] : EuclideanSpace ℝ (Fin n) := EuclideanSpace.single 0 1

lemma e_ne_zero : e n ≠ 0 := by
  intro h
  have := congrArg (fun v : EuclideanSpace ℝ (Fin n) => v 0) h
  simp [e] at this

/-- `DiscreteReal` acts on `ℝⁿ` by translations. -/
noncomputable instance : MulAction DiscreteReal (EuclideanSpace ℝ (Fin n)) where
  smul g x := x + Multiplicative.toAdd g • e n
  one_smul x := by
    show x + Multiplicative.toAdd (1 : Multiplicative ℝ) • e n = x
    simp
  mul_smul g h x := by
    show x + (Multiplicative.toAdd g + Multiplicative.toAdd h) • e n
      = x + Multiplicative.toAdd h • e n + Multiplicative.toAdd g • e n
    rw [add_smul]; abel

lemma smul_def (g : DiscreteReal) (x : EuclideanSpace ℝ (Fin n)) :
    g • x = x + Multiplicative.toAdd g • e n := rfl

instance : ContinuousSMul DiscreteReal (EuclideanSpace ℝ (Fin n)) :=
  ⟨continuous_snd.add ((continuous_of_discreteTopology
    (f := fun g : DiscreteReal => Multiplicative.toAdd g • e n)).comp continuous_fst)⟩

instance : FaithfulSMul DiscreteReal (EuclideanSpace ℝ (Fin n)) :=
  ⟨fun {g h} H => by
    have := H 0
    simp only [smul_def, zero_add] at this
    exact Multiplicative.toAdd.injective (smul_left_injective ℝ e_ne_zero this)⟩

theorem not_admitsLieGroupStructure : ¬ Hilbert5.AdmitsLieGroupStructure DiscreteReal := by
  rintro ⟨n, ⟨p⟩⟩
  let := p.topologicalSpace
  let := p.group
  have := p.secondCountableTopology
  have : SecondCountableTopology DiscreteReal := p.equiv.toHomeomorph.secondCountableTopology
  have : Countable DiscreteReal := TopologicalSpace.separableSpace_iff_countable.mp inferInstance
  exact not_countable ‹Countable DiscreteReal›

/-- The current statement `Hilbert5.hilbert_smith_conjecture` is false. -/
theorem hilbert_smith_conjecture_false : False :=
  not_admitsLieGroupStructure
    (Hilbert5.hilbert_smith_conjecture (G := DiscreteReal) (X := EuclideanSpace ℝ (Fin 1)))

/-- So is the "solved" three-dimensional variant. -/
theorem dimension_three_false : False :=
  not_admitsLieGroupStructure
    (Hilbert5.hilbert_smith_conjecture.variants.dimension_three (G := DiscreteReal)
      (X := EuclideanSpace ℝ (Fin 3)))

end DiscreteReal
```

</details>

I have a fix ready and will open a PR.
